US07268232B2
(S)-1-(4-Cyanonaphthalen-1-yl)pyrrolidine-2-carboxylic acid methyl ester (159JP74A)
1-Cyano-4-fluoronaphthalene (109 mg, 0.64 mmol) and L-proline methyl ester (380 mg, 2.95 mmol) were heated to 60° C. for 2 days in a sealed vial. The crude product was concentrated in vacuo and purified by preparative TLC (ethyl acetate/n-heptane 1:3, 3× eluted) to afford the title compound (2.9 mg, 1.7%) as an off-white solid.

reactant | 1-Cyano-4-fluoronaphthalene | 0.64 mmol, 109 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | L-proline methyl ester | 2.95 mmol, 380 mg | COC([C@H]1NCCC1)=O | C6H11NO2
product | (S)-1-(4-Cyanonaphthalen-1-yl)pyrrolidine-2-carboxylic acid methyl ester | 2.9 mg, 1.7% | COC(=O)[C@H]1N(CCC1)C1=CC=C(C2=CC=CC=C12)C#N | C17H16N2O2
